US05716936
The process is performed as described in Example 2A, but starting with 1.6 g of tert-butyl (2RS,4SR,5RS)-4-(4-acetamidophenyl)sulphonyl-1-{2-[3-(3-benzyloxycarbonylphenyl)ureido]acetyl}-5-(2-fluorophenyl)-2-pyrrolidinecarboxylate, 0.2 g of 10% palladium-on-charcoal and 100 cm3 of ethanol under a hydrogen atmosphere (130 kPa). After treatment, 0.9 g of (2RS,4SR,5RS)-3-(3-{2-[4-(4-acetamidophenyl)sulphonyl-2-tert-butoxycarbonyl-5-(2-fluorophenyl)-1-pyrrolidinyl]-2-oxoethyl}ureido)benzoic acid is obtained [Rf=0.3; eluent: methylene chloride/methanol (90/10); 1H NMR spectrum (300 MHz, (CD3)2SO, at a temperature of 393 K, δ in ppm): 1.55 (s, 9H: C(CH3)3); 2.12 (s, 3H: COCH3); 2.44 and 2.79 (2 mts, 1H each: CH2 at 3); 3.68 and 3.99 (mt and dd respectively (J=17 and 4.5 Hz), 1H each: COCH2N); 4.03 (mt, 1H: H4); 4.65 (broad t, J=7 Hz, 1H: H2); 5,72 (d, J=3 Hz, 1H: H5); 6.20 (t, J=4.5 Hz, 1H: NHCO); from 7.05 to 7.65 (mt, 6H: aromatic H); 7.80 (broad t, J=8 Hz, 1H: H of the aromatic at 5 (H6)); 7.88 (limiting AB, J=7.5 Hz, 4H: H of the aromatic at 4); 8.00 (mt, 1H: aromatic H (H2: ortho to the COOH)); 8.65 (s, 1H: CONHAr); 10.03 (s, 1H: ArNH)].

reactant | tert-butyl (2RS,4SR,5RS)-4-(4-acetamidophenyl)sulphonyl-1-{2-[3-(3-benzyloxycarbonylphenyl)ureido]acetyl}-5-(2-fluorophenyl)-2-pyrrolidinecarboxylate | 1.6 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)C1CC(N(C1C1=C(C=CC=C1)F)C(CNC(=O)NC1=CC(=CC=C1)C(=O)OCC1=CC=CC=C1)=O)C(=O)OC(C)(C)C | C40H41FN4O9S
catalyst | palladium-on-charcoal | 0.2 g | [Pd] | Pd
solvent | ethanol | 100 cm3 | C(C)O | C2H6O
product | (2RS,4SR,5RS)-3-(3-{2-[4-(4-acetamidophenyl)sulphonyl-2-tert-butoxycarbonyl-5-(2-fluorophenyl)-1-pyrrolidinyl]-2-oxoethyl}ureido)benzoic acid | 0.9 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)C1CC(N(C1C1=C(C=CC=C1)F)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O)C(=O)OC(C)(C)C | C33H35FN4O9S
